US07423156B2
To a chilled solution (ice/water bath) of bromobenzene (7.71 g, 49.1 mmol) and 3,3-dimethyldihydro-2,5-furandione (5.99 g, 46.7 mmol) in dichloroethane (150 mL) was added aluminum trichloride (13.28 g, 99.58 mmol). The ice bath was removed and the reaction mixture was stirred at rt overnight. The mixture was again chilled in an ice/water bath, and then quenched with 1 M aqueous hydrochloric acid. Water (70 mL) was added and the layers were separated. The aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography (Biotage apparatus, 17:83 ethyl acetate/hexane) to give 4-(4-bromophenyl)-2,2-dimethyl-4-oxobutanoic acid as a white solid (8.34 g, 63%). LC-MS: ret. time 2.79 min; m/z 284.8 (MH+); 1H NMR (300 MHz, CDCl3) δ 1.36 (s, 6H), 3.27 (s, 2H), 7.60 (d, 2H), 7.81 (d, 2H).

reactant | bromobenzene | 49.1 mmol, 7.71 g | BrC1=CC=CC=C1 | C6H5Br
reactant | 3,3-dimethyldihydro-2,5-furandione | 46.7 mmol, 5.99 g | CC1(C(OC(C1)=O)=O)C | C6H8O3
reactant | aluminum trichloride | 99.58 mmol, 13.28 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | dichloroethane | 150 mL | ClC(C)Cl | C2H4Cl2
product | 4-(4-bromophenyl)-2,2-dimethyl-4-oxobutanoic acid | 8.34 g, 63% | BrC1=CC=C(C=C1)C(CC(C(=O)O)(C)C)=O | C12H13BrO3
